US04569801
A mixture of 22.3 g (0.080 mol) of α-acetyl-4-nitrobenzenebutanoic acid, ethyl ester in 500 ml of THF was charged with 250 ml of 6N hydrochloric acid and refluxed overnight. The reaction mixture was cooled and evaporated to dryness under reduced pressure. The residue was diluted with water and extracted three times with diethyl ether. The organic extracts were separated, washed twice with 1N sodium hydroxide, three times with water and once with a saturated sodium chloride solution. The organic solution was dried over anhydrous sodium sulfate and evaporated under reduced pressure. The residue was distilled to remove the 4-chlorobutanol. The residue of this distillate was then further distilled through a 6 inch jacketed vigreaux column and fraction 2 therefrom afforded 6.681 g of 5-(4-nitrophenyl)-2-pentanone.

reactant | α-acetyl-4-nitrobenzenebutanoic acid, ethyl ester | 0.080 mol, 22.3 g | C(C)(=O)C(C(=O)OCC)CCC1=CC=C(C=C1)[N+](=O)[O-] | C14H17NO5
reactant | hydrochloric acid | 6N, 250 ml | Cl | ClH
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | 5-(4-nitrophenyl)-2-pentanone | 6.681 g | [N+](=O)([O-])C1=CC=C(C=C1)CCCC(C)=O | C11H13NO3
